US05523475
4,6-Dichloro-3-hydroxy-2-nitrobenzoic acid (223 mg, 0.88 mmol) was dissolved in EtOH (50 mL) and Pd/C (10%, 30 mg) was added. Hydrogenation at atmospheric pressure and at room temperature for 1 h, filtration and evaporation of the solvent gave 205 mg of crude product. Purification by column chromatography (SiO2, EtOAc-HOAc 50:1) gave a residue which was recrystallized from MeOH/water (0.5/1.5 mL). Column chromatography (SiO2, EtOAc-HOAc 400:1) followed by dissolving the free amine in THF (0.6 mL) and precipitating the hydrochloride by adding HCl/Et2O (3M, 1 mL) and Et2O (1 mL) gave 4,6-dichloro-3-hydroxyanthranilic acid hydrochloride (32 mg). Mp: 231° C. (dec.). 1H NMR (DMSO-d6): δ7.0 (br, 5H), 6.68 (s, 1H). 13C NMR (DMSO-d6): δ167.15, 140.27, 139.05, 122.49, 121.88, 116.24, 113.99. MS (EI, 70 eV): m/z (rel. int.) 223/221 (M+, 42/65).

reactant | 4,6-Dichloro-3-hydroxy-2-nitrobenzoic acid | 0.88 mmol, 223 mg | ClC1=C(C(=C(C(=O)O)C(=C1)Cl)[N+](=O)[O-])O | C7H3Cl2NO5
solvent | EtOH | 50 mL | CCO | C2H6O
catalyst | Pd/C | 30 mg | [Pd] | Pd
product | 4,6-dichloro-3-hydroxyanthranilic acid hydrochloride | 32 mg | Cl.ClC=1C(=C(C(C(=O)O)=C(C1)Cl)N)O | InChI=1S/C7H5Cl2NO3.ClH/c8-2-1-3(9)6(11)5(10)4(2)7(12)13;/h1,11H,10H2,(H,12,13);1H
